US07442839B2
(ii) 4-{(1R)-2-[(6-{4-[3-(Cyclopentylsulfonyl)phenyl]butoxy}hexyl)amino]-1-hydroxyethyl}-2-(hydroxymethyl)phenol 4-chlorobenzene sulfonate
4-Chlorobenzene sulfonic acid (19 mg) was added to a solution of 4-{(1R)-2-[(6-{4-[3-(cyclopentylsulfonyl)phenyl]butoxy}hexyl)amino]-1-hydroxyethyl}-2-(hydroxymethyl)phenol (55 mg) (dissolved by gentle warming) in propan-2-ol (0.5 ml) at 21°. After a few minutes crystals had separated out. These were collected, and rinsed with propan-2-ol to give crystals of the title compound, δ (DMSO-d6) 9.40 (1H,s), 8.42 (2H, br s), 7.72-7.67 (2H, m), 7.62-7.55 (4H, m), 7.38 (2H, m), 7.32 (1H, d, J=2 Hz), 7.05 (1H, dd, J 2,8 Hz), 6.75 (1H, d, J=8 Hz), 5.97 (1H, br s), 5.00 (1H, v br s), 4.76 (1H, br d, J=9 Hz), 4.49 (2H, s), 3.75 (1H m), 3.32 (4H, partially obscured t), 3.10-2.87 (4H, 2m), 2.71 (2H, t, J=7 Hz), 1.90-1.25 (20H, m).

reactant | 4-Chlorobenzene sulfonic acid | 19 mg | ClC1=CC=C(C=C1)S(=O)(=O)O | C6H5ClO3S
reactant | 4-{(1R)-2-[(6-{4-[3-(cyclopentylsulfonyl)phenyl]butoxy}hexyl)amino]-1-hydroxyethyl}-2-(hydroxymethyl)phenol | 55 mg | C1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)CCCCOCCCCCCNC[C@H](O)C1=CC(=C(C=C1)O)CO | C30H45NO6S
solvent | propan-2-ol | 0.5 ml | CC(C)O | C3H8O
product | 4-{(1R)-2-[(6-{4-[3-(Cyclopentylsulfonyl)phenyl]butoxy}hexyl)amino]-1-hydroxyethyl}-2-(hydroxymethyl)phenol 4-chlorobenzene sulfonate | C1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)CCCCOCCCCCCNC[C@H](O)C1=CC(=C(C=C1)O)CO.ClC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C30H45NO6S.C6H5ClO3S/c32-23-26-21-25(15-16-29(26)33)30(34)22-31-17-6-1-2-7-18-37-19-8-5-10-24-11-9-14-28(20-24)38(35,36)27-12-3-4-13-27;7-5-1-3-6(4-2-5)11(8,9)10/h9,11,14-16,20-21,27,30-34H,1-8,10,12-13,17-19,22-23H2;1-4H,(H,8,9,10)/p-1/t30-;/m0./s1
